US09290483B2
Synthesis of 2,7-dibromo-9,9-bis{3-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]propyl}fluorene
Potassium terbutylate (3.0 g, 26.7 mmoles) are added, in an inert atmosphere, to a solution of solketal (3.5 g, 26.7 mmoles) in 50.0 ml of 1,2-dimethoxyethane. After 20 minutes, 5.0 g of 2,7-dibromo-9,9-bis(3′-bromopropyl)fluorene (5.0 g, 8.9 mmoles) dissolved in 15.0 ml of 1,2-dimethoxyethane are added.

reactant | solketal | 26.7 mmoles, 3.5 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | 2,7-dibromo-9,9-bis(3′-bromopropyl)fluorene | 8.9 mmoles, 5.0 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCBr)CCCBr | C19H18Br4
solvent | 1,2-dimethoxyethane | 50.0 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 15.0 ml | COCCOC | C4H10O2
product | 2,7-dibromo-9,9-bis{3-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]propyl}fluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCOCC1OC(OC1)(C)C)CCCOCC1OC(OC1)(C)C | C31H40Br2O6
